2198-06-07 07:26:00 Physician Resident Progress Note
TITLE: SUB-INTERN PROGRESS NOTE
   Chief Complaint:
   24 Hour Events:
   Patient was tachycardic to 150s overnight, given diltiazem 5 mg IV x2,
   HR down to 120s and with stable blood pressure. Otherwise sating well.
   Urinating a lot, HR increases with urination.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Heparin Sodium - 1,900 units/hour
   Other ICU medications:
   Heparin Sodium - [**2198-6-7**] 02:00 AM
   Diltiazem - [**2198-6-7**] 05:06 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2198-6-7**] 07:21 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98.1
   Tcurrent: 35.3
C (95.6
   HR: 142 (94 - 148) bpm
   BP: 109/71(78) {104/53(73) - 148/94(98)} mmHg
   RR: 23 (16 - 25) insp/min
   SpO2: 92%
   Heart rhythm: A Flut (Atrial Flutter)
   Height: 72 Inch
             Total In:
                                                                    214 mL
                                                                    136 mL
   PO:
                                                                    120 mL
             TF:
   IVF:
                                                                     94 mL
                                                                    136 mL
   Blood products:
   Total out:
                                                                    650 mL
                                                                    700 mL
   Urine:
                                                                    650 mL
                                                                    700 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -436 mL
                                                                   -564 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 92%
   Physical Examination
   GENERAL: well-appearing gentleman sitting at the bedside.
   NEURO: pearl, eomi
   CV: distance heart sounds irregular rhythm, tachycardic around 100, no
   murmurs, JVP 8
   PULM: moderate expiratory wheezes bilaterally throughout lung fields
   ABD: bowel sounds present, non-tender, non-distended, voluntary
   guarding
   Labs / Radiology
   247 K/uL
   12.3 g/dL
   162 mg/dL
   0.7 mg/dL
   37 mEq/L
   5.2 mEq/L
   26 mg/dL
   95 mEq/L
   135 mEq/L
   38.5 %
   9.4 K/uL
        [image002.jpg]
                             [**2198-6-6**]  05:33 PM
   WBC
   9.4
   Hct
   38.5
   Plt
   247
   Cr
   0.7
   Glucose
   162
   Other labs: PT / PTT / INR:15.9/45.1/1.4, ALT / AST:20/13, Alk Phos / T
   Bili:57/0.6, Differential-Neuts:84.7 %, Lymph:10.9 %, Mono:4.2 %,
   Eos:0.0 %, Albumin:3.6 g/dL, Ca++:8.9 mg/dL, Mg++:2.1 mg/dL, PO4:3.1
   mg/dL
   Assessment and Plan
   This is a 56 year old man with a history of morbid obesity, DM, HTN,
   who was transferred from [**Hospital3 **] for further management of
   atrial flutter and possible ablation/cardioversion.
   # ATRIAL FLUTTER: The patient has atrial flutter that has been
   difficult to rate control despite multiple agents for the past two days
   at [**Hospital3 **]. At the [**Hospital1 1**] his rate is still tachycardic in the
   110s-120s on diltiazen boluses. Since his tachyarrhythmia has been
   difficult to control on medical therapy, he will need electrical
   cardioversion to reverse his typical atrial flutter. In addition, he
   should have ablation to prevent recurrence of flutter. However, given
   the possibility that his flutter has been going on for the past 2 weeks
   and his CHADS2 score is [**2-23**] (4% risk of stroke), the risk of
   thromboembolism with cardioversion is high. Today he will have a TEE to
   assess for clot in the left atrium, and if there is no clot Dr.
   [**Last Name (STitle) 6092**] will do the cardioversion and ablation. After the procedure he
   will need to continue warfarin (goal INR 2.0-3.0) for at least 4 weeks.
   -          Diltiazem boluses until the procedure for rate control if HR
   is 130-150s, goal HR 80-120
   -          warfarin 5 mg po qd for goal INR 2.0-3.0
   -          heparin sliding scale to bridge to INR goal
   -          TEE to assess for clot
   -          Electrical cardioversion if no clot present with Dr.
   [**Last Name (STitle) 6092**]
   -          Ablation to prevent recurrent flutter
   # CONGESTIVE HEART FAILURE:  Given the history of increasing dyspnea on
   exertion for two weeks and the finding of atrial fibrillation with RVR
   in 170s on admission to [**Hospital3 **], the etiology of his CHF is
   most likely tachycardia-induced cardiomyopathy. His extremely high
   heart rate decreases diastolic filling time, thus decreasing preload
   and stroke volume, which decreases his cardiac output and forward flow.
   To add insult to injury, atrial fibrillation/flutter prevents the
   normal atrial kick from adding to cardiac output. Thus, tachycardiac is
   the most likely culprit. His report of sweats/chills during the two
   weeks prior to admission could have induced his tachyarrhythmia, but
   viral-induced cardiomyopathy on top of atrial flutter should remain on
   the differential given the vagueness of his symptoms. It is also
   possible that he has chronic CHF secondary to COPD and OSA given his
   history of smoking and body habitus, which may have caused his
   tachyarrhythmia, which then exacerbated his CHF. For further evaluation
   we would need PFTs, sleep studies, and a measurement of his heart
   pressures, but these could be performed as an outpatient. Other
   etiologies, such as ischemia-related and toxic cardiomyopathy, are less
   likely given no history of CAD, ACS, alcohol abuse, and cocaine abuse.
   Either way, he will need an echo as an outpatient in 6 months to assess
   if his cardiac function has recovered. At this time, he is largely
   improved after his lasix and diuresis at [**Hospital3 **], and he has
   diuresed about 400cc since admission here. He is still mildly fluid
   overloaded as evidenced by pitting edema in his calves. I/O goals for
   today after the procedure should be -1L , and we may consider lasix
   after he gets back to the floor.
   -          Electrical cardioversion and ablation should improve his
   cardiac output, resolving CHF
   -          I/O goal net -1L
   -          diltiazem for rate control, goal HR 80-100
   # WHEEZING: Given the patient
s extensive history of smoking, he is at
   risk for COPD. At the outside hospital he was started on multiple
   medications (duoneb, spiriva, solu-medrol and advair) to treat
   presumable COPD. However, since he is not symptomatic from wheezing and
   he satting low 90s on room air, specific treatment is better suited in
   the outpatient environment.
   .
   # CORONARIES: The patient has no evidence of CAD on EKG, but because
   his [**Location (un) 150**] risk score is 20% for MI in the next 10 years, he should
   be on a baby aspirin.
   .
   # DMII: Patient has history of diabetes. Sugars are high on admission.
   -          Insulin sliding scale
   .
   # Hyperlipidemia: Patient has history of dyslipidemia.
   -          Continue home regimen.
   .
   # HTN: The patient has a history of hypertension. However, given that
   lisinopril would tweak his hemodynamics, we will hold his home blood
   pressure medications.
   ..
   # FEN: NPO for TEE, cardiac diet afterwards
   # ACCESS: PIV's x2 18s
   # PROPHYLAXIS:
   -          DVT ppx: covered with heparin which we are using for his
   Coumadin bridge
   -          Bowel regimen with senna/colace
   # CODE: full
   # DISPO: CCU for now, will likely be candidate for [**Hospital Ward Name 408**] 3 after the
   procedure
   # CONTACT: wife: [**Telephone/Fax (1) 6069**]
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2198-6-7**] 12:31 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:
   [**Doctor First Name **] Drzymalski, MS-IV
   PGY 1 Addendum:
   Patient seen and examined with medical student and I agree with his
   physical exam and assessment/plan as noted below:
   Patient with a-flutter, plan for ablation this morning. Will d/c dilt
   gtt post-ablation as rate allows. On heparin gtt as bridge to coumadin
   for at least one month of treatment.  TEE this morning without evidence
   of clot. Will restart on ACE-I today and add on BB as bp
s tolerate.

2198-06-08 07:38:00 Physician Resident Progress Note
TITLE: SUB-INTERN PROGRESS NOTE
   24 Hour Events:
   - stable overnight
   - TEE showed no clot
   - had successful ablation, in NSR in high 90's
   - restarted lisinopril 5 and lopressor 25 [**Hospital1 **]
   - Diuresed well
   - BPs a little high overnight
   - Mentions that tomorrow is son's housewarming at noon and would like
   to be discharged before then.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Heparin Sodium - 2,100 units/hour
   Other ICU medications:
   Diltiazem - [**2198-6-7**] 08:09 AM
   Midazolam (Versed) - [**2198-6-7**] 09:00 AM
   Fentanyl - [**2198-6-7**] 12:15 PM
   Furosemide (Lasix) - [**2198-6-7**] 09:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2198-6-8**] 07:38 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98.1
   Tcurrent: 36.7
C (98.1
   HR: 90 (87 - 149) bpm (s/p ablation mostly 80s-90s, once up to 103)
   BP: 156/92(107) {104/57(73) - 156/92(126)} mmHg
   RR: 19 (16 - 28) insp/min
   SpO2: 90%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 72 Inch
             Total In:
                                                                  1,222 mL
                                                                    150 mL
   PO:
                                                                    480 mL
             TF:
   IVF:
                                                                    742 mL
                                                                    150 mL
   Blood products:
   Total out:
                                                                  3,800 mL
                                                                  1,350 mL
   Urine:
                                                                  3,800 mL
                                                                  1,350 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,578 mL
                                                                 -1,200 mL
   Respiratory support
   O2 Delivery Device: Room Air
   SpO2: 90%
   Physical Examination
   Gen: well appearing in NAD
   CV: rrr, no m/r/g
   P: mild wheezing in R lower lung field, otherwise no crackles
   ABD: soft, nt/nd, bs+
   Ext: very mild pitting edema
   Labs / Radiology
   260 K/uL
   13.6 g/dL
   110 mg/dL
   0.7 mg/dL
   39 mEq/L
   4.5 mEq/L
   16 mg/dL
   93 mEq/L
   138 mEq/L
   42.1 %
   8.5 K/uL
        [image002.jpg]
                             [**2198-6-6**]  05:33 PM
                             [**2198-6-8**]  03:53 AM
   WBC
   9.4
   8.5
   Hct
   38.5
   42.1
   Plt
   247
   260
   Cr
   0.7
   0.7
   Glucose
   162
   110
   Other labs: PT / PTT / INR:20.4/53.4/1.9, ALT / AST:20/13, Alk Phos / T
   Bili:57/0.6, Differential-Neuts:84.7 %, Lymph:10.9 %, Mono:4.2 %,
   Eos:0.0 %, Albumin:3.6 g/dL, Ca++:9.4 mg/dL, Mg++:1.9 mg/dL, PO4:3.7
   mg/dL
   Assessment and Plan
   This is a 56 year old man with a history of morbid obesity, DM, HTN,
   who was transferred from [**Hospital3 **] for further management of
   atrial flutter and possible ablation/cardioversion.
   # ATRIAL FLUTTER. The patient underwent successful ablation yesterday.
   We restarted his beta-blocker for rate control and he has since had
   rates mostly in the 80s-90s and has maintained NSR.  Because he
   underwent ablation yesterday, he will need to be anti-coagulated for at
   least one month due to the risk of thromboembolic disease. His INR this
   morning is 1.9, so he should continue the heparin bridge until INR goal
   of 2.0-3.0 is reached. Checking a PM INR would be useful, as we could
   probably d/c the heparin in the afternoon. He otherwise is continuing
   warfarin 5 mg po qd. In the long term, he will probably need warfarin
   even after the one-month post-ablation period, because his CHADS2 score
   is [**3-23**], which puts him at about 6% risk for thromboembolic disease
   without anti-coagulation.
   -          Metoprolol for rate control
   -          HR goals: 80s-90s
   -          warfarin 5 mg po qd for goal INR 2.0-3.0 for at least one
   month, possibly in the long-term as well due to CHADS2 score
   -          heparin sliding scale to bridge to INR goal
   # CHF: Yesterday he was net negative over 2.5 L with lasix boluses. He
   has improved clinically in terms of his fluid overload, now with
   minimal pitting edema in the lower extremities and no crackles at the
   lung bases, with a CVP of 6. As over this morning he diuresed 1.2L. He
   could probably benefit from a little more diuresis, but very no more
   than 2.5L for the day. Another bolus of 20 cc IV lasix could be
   helpful. In terms of long-term medications, we restarted him on
   lisinopril 5 mg po qd and metoprolol 25 mg po bid. Since his HR is
   relatively well controlled, but his BP has been slightly high in the
   SBP 130s, we could go up on his lisinopril to 10 mg po qd. More
   complete management is better suited in the outpatient setting.
   # CONGESTIVE HEART FAILURE:  Given the history of increasing dyspnea on
   exertion for two weeks and the finding of atrial fibrillation with RVR
   in 170s on admission to [**Hospital3 **], the etiology of his CHF is
   most likely tachycardia-induced cardiomyopathy. His extremely high
   heart rate decreases diastolic filling time, thus decreasing preload
   and stroke volume, which decreases his cardiac output and forward flow.
   To add insult to injury, atrial fibrillation/flutter prevents the
   normal atrial kick from adding to cardiac output. Thus, tachycardiac is
   the most likely culprit. His report of sweats/chills during the two
   weeks prior to admission could have induced his tachyarrhythmia, but
   viral-induced cardiomyopathy on top of atrial flutter should remain on
   the differential given the vagueness of his symptoms. It is also
   possible that he has chronic CHF secondary to COPD and OSA given his
   history of smoking and body habitus, which may have caused his
   tachyarrhythmia, which then exacerbated his CHF. For further evaluation
   we would need PFTs, sleep studies, and a measurement of his heart
   pressures, but these could be performed as an outpatient. Other
   etiologies, such as ischemia-related and toxic cardiomyopathy, are less
   likely given no history of CAD, ACS, alcohol abuse, and cocaine abuse.
   Either way, he will need an echo as an outpatient in 6 months to assess
   if his cardiac function has recovered. At this time, he is largely
   improved after his lasix and diuresis at [**Hospital3 **], and he has
   diuresed about 400cc since admission here. He is still mildly fluid
   overloaded as evidenced by pitting edema in his calves. I/O goals for
   today after the procedure should be -1L , and we may consider lasix
   after he gets back to the floor.
   -          Electrical cardioversion and ablation should improve his
   cardiac output, resolving CHF
   -          I/O goal net -1L
   -          diltiazem for rate control, goal HR 80-100
   # WHEEZING: Given the patient
s extensive history of smoking, he is at
   risk for COPD. At the outside hospital he was started on multiple
   medications (duoneb, spiriva, solu-medrol and advair) to treat
   presumable COPD. However, since he is not symptomatic from wheezing and
   he satting low 90s on room air, specific treatment is better suited in
   the outpatient environment.
   .
   # CORONARIES: The patient has no evidence of CAD on EKG, but because
   his [**Location (un) 150**] risk score is 20% for MI in the next 10 years, he should
   be on a baby aspirin.
   .
   # DMII: Patient has history of diabetes. Sugars are high on admission.
   -          Insulin sliding scale
   .
   # Hyperlipidemia: Patient has history of dyslipidemia.
   -          Continue home regimen.
   .
   # HTN: The patient has a history of hypertension. However, given that
   lisinopril would tweak his hemodynamics, we will hold his home blood
   pressure medications.
   ..
   # FEN: NPO for TEE, cardiac diet afterwards
   # ACCESS: PIV's x2 18s
   # PROPHYLAXIS:
   -          DVT ppx: covered with heparin which we are using for his
   Coumadin bridge
   -          Bowel regimen with senna/colace
   # CODE: full
   # DISPO: CCU for now, will likely be candidate for [**Hospital Ward Name 408**] 3 after the
   procedure
   # CONTACT: wife: [**Telephone/Fax (1) 6069**]
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2198-6-7**] 12:31 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition: